US07148226B2
(6-Bromo-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-methanol
To a slurry of (5-amino-1H-[1,2,4]triazol-3-yl)-methanol (6.29 g, 33.12 mmol) in acetic acid (25 ml) was added bromomalonaldehyde (5 g, 33.12 mmol). The mixture was heated at 60° C. for hours, and then cooled to room temperature. The light yellow solid was formed. After the solid were removed by filtration followed by drying in vacuum oven provides the light yellow solid as desired product, the filtrate was concentrate by rotary evaporation to give yellow oil. The crude oil was purified by flash chromatography (2% MeOH in CH2Cl2) to give the desired product as light yellow solid (combine total 6.5 g, 86% yield). 1H NMR (300 MHz, DMSO-D6) δ ppm 4.65 (d, J=5.46 Hz, 2 H) 5.50–5.67 (m, 1 H) 8.94 (d, J=2.45 Hz, 1 H) 9.83 (d, J=2.26 Hz, 1 H). MS: (APCI) 230 (M+H)

reactant | (5-amino-1H-[1,2,4]triazol-3-yl)-methanol | 33.12 mmol, 6.29 g | NC1=NC(=NN1)CO | C3H6N4O
reactant | bromomalonaldehyde | 33.12 mmol, 5 g | BrC(C=O)C=O | C3H3BrO2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | (6-Bromo-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-methanol | BrC=1C=NC=2N(C1)N=C(N2)CO | C6H5BrN4O
